US08058441B2
1-Acetyl-6-(cyclopropylmethyl)oxy-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline
A mixture of 1-acetyl-6-hydroxy-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline (20 mg), cesium carbonate (63 mg), tetrabutylammonium bromide (29 mg) and chloromethylcyclopropane (8.4 μl) in acetonitrile (1 ml) was stirred at 50° C. for 18 h. The reaction mixture was concentrated in vacuo and the residue was chromatographed on silicagel in heptane/ethyl acetate=1/06/4 (v/v) as eluent.

reactant | 1-acetyl-6-hydroxy-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | 20 mg | C(C)(=O)N1C(CC(C2=CC(=CC=C12)O)(C)C1=CC=CC=C1)(C)C | C20H23NO2
reactant | cesium carbonate | 63 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | chloromethylcyclopropane | 8.4 μl | ClCC1CC1 | C4H7Cl
catalyst | tetrabutylammonium bromide | 29 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | 1-Acetyl-6-(cyclopropylmethyl)oxy-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | C(C)(=O)N1C(CC(C2=CC(=CC=C12)OCC1CC1)(C)C1=CC=CC=C1)(C)C | C24H29NO2
